US07202251B2
4′-Chloro-3-methyl-5′-{[2-(2-oxo-3-pyridin-2-yl-2,3-dihydro-1H-benzimidazol-1-yl)acetyl]amino}-spiro[imidazolidine-4,2′-indane]-2,5-dione, enantiomer B
Essentially following the procedures described for Example 93, but using 5′-amino-4′-chloro-3-methyl-spiro[imidazolidine-4,2′-indane]-2,5-dione, enantiomer B, (described in Intermediate 49) in place of 5′-amino-6′-chloro-3-methyl-spiro[imidazolidine-4,2′-indane]-2,5-dione, enantiomer B, the title compound was obtained. MS: m/z=517 (M+1). HRMS: m/z=517.1381; calculated m/z=517.1386 for C26H22ClN6O4.

reactant | 5′-amino-4′-chloro-3-methyl-spiro[imidazolidine-4,2′-indane]-2,5-dione | NC=1C(=C2CC3(CC2=CC1)N(C(NC3=O)=O)C)Cl | C12H12ClN3O2
reactant | 5′-amino-6′-chloro-3-methyl-spiro[imidazolidine-4,2′-indane]-2,5-dione | NC=1C=C2CC3(CC2=CC1Cl)N(C(NC3=O)=O)C | C12H12ClN3O2
product | 4′-Chloro-3-methyl-5′-{[2-(2-oxo-3-pyridin-2-yl-2,3-dihydro-1H-benzimidazol-1-yl)acetyl]amino}-spiro[imidazolidine-4,2′-indane]-2,5-dione | ClC1=C2CC3(CC2=CC=C1NC(CN1C(N(C2=C1C=CC=C2)C2=NC=CC=C2)=O)=O)N(C(NC3=O)=O)C | C26H21ClN6O4
